US05569655
To a suspension of 1-imino-1-ethoxyisobutane hydrochloride (610.0 g) in ether (12.5 L) was added ethanol (1940.0 g, 10 mol). The mixture was stirred at 35°-37° C. under N2 for 72 hours. The reaction mixture was filtered, the filtrate was washed with a 10% sodium carbonate solution, followed by a saturated sodium carbonate solution and the organic layer was dried over K2CO3. The organic layer was concentrated in vacuo and the residue was dissolved in ether, filtered and the filtrate was washed successively with a 10% NaOH solution and water. The organic layer was dried over K2CO3, the solvent was removed in vacuo and the residue was diluted with hexane, cooled in an ice-bath and filtered. The filtrate was concentrated in vacuo and the residue was distilled at 70°-72° C. (27 mmHg) to afford 320 g (42%) of 1,1,1-triethoxyisobutane.

reactant | 1-imino-1-ethoxyisobutane hydrochloride | 610.0 g | Cl.N=C(C(C)C)OCC
reactant | ethanol | 10 mol, 1940.0 g | C(C)O | C2H6O
reactant | ether | 12.5 L | CCOCC | C4H10O
product | 1,1,1-triethoxyisobutane | 320 g, 42% | C(C)OC(C(C)C)(OCC)OCC | C10H22O3
